US07842688B2
d) N-(2-Bromo-5-methylphenyl)-N-(3-methoxypropyl)isobutyramide
Analogously to Example 8c, 16.50 g of N-(2-bromo-5-methylphenyl)isobutyramide and 8.59 ml of 1-chloro-3-methoxypropane are reacted. The title compound is obtained as a slightly yellowish oil. Rf=0.13 (1:1 EtOAc-heptane); Rt=18.54 (II).

reactant | N-(2-bromo-5-methylphenyl)isobutyramide | 16.50 g | BrC1=C(C=C(C=C1)C)NC(C(C)C)=O | C11H14BrNO
reactant | 1-chloro-3-methoxypropane | 8.59 ml | ClCCCOC | C4H9ClO
product | N-(2-Bromo-5-methylphenyl)-N-(3-methoxypropyl)isobutyramide | BrC1=C(C=C(C=C1)C)N(C(C(C)C)=O)CCCOC | C15H22BrNO2
